US09340549B2
To a vial charged with 2-amino-5-bromobenzaldehyde (commercially available from Matrix Scientific, Columbia, S.C.) (0.500 g, 2.500 mmol) were added THF (4.17 mL), toluene (4.17 mL), TEA (0.871 mL, 6.25 mmol) and phthalic anhydride (0.849 mL, 8.75 mmol). The mixture was heated at 100° C. overnight. LC-MS indicated that the product was present as a component of a complex mixture. The resulting mixture was passed through a 10 g SCX-2 column with much solid sticking to the top of the column and some product eluting through indicating a solubility issue in MeOH. The solid and filtrate were dissolved in DCM:MeOH and the crude residue was adsorbed onto silica gel with drying under reduced pressure. The adsorbed material was purified with a 50 g SNAP column ramping EtOAc in heptane from 0-45%, then isocratic at 45% to elute 5-bromo-2-(1,3-dioxoisoindolin-2-yl)benzaldehyde (0.290 g, 0.878 mmol, 35.1% yield) as a yellow solid. m/z (ESI) 330.0/332.0 (M+H)+.

reactant | 2-amino-5-bromobenzaldehyde | NC1=C(C=O)C=C(C=C1)Br | C7H6BrNO
reactant | THF | 4.17 mL | C1CCOC1 | C4H8O
reactant | phthalic anhydride | 8.75 mmol, 0.849 mL | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 4.17 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-(1,3-dioxoisoindolin-2-yl)benzaldehyde | 0.878 mmol, 0.290 g, 35.1% yield | BrC=1C=CC(=C(C=O)C1)N1C(C2=CC=CC=C2C1=O)=O | C15H8BrNO3
